US08486941B2
To a suspension of NaH in cold tetrahydrofuran (80 mg/20 mL), 5-amino-2-morpholinobenzyl alcohol (400 mg, 2 mmol) was added. The mixture was stirred for 15 minutes then allyl chloride (150 mg, 2 mmol) and tetrabutylammonium iodide (37 mg, 5 mol %) were added. The resulting mixture was stirred at room temperature for 2 hours then at 60° C. overnight. After cooling to room temperature, water was added (200 μL) and the mixture stirred for 10 minutes then diluted with ethyl acetate. The organic phase was washed sequentially with 10% aqueous ammonium chloride and brine, dried over anhydrous Na2SO4, filtered and concentrated to give a yellow solid. The crude product was purified with 50% ethyl acetate in petroleum spirit to obtain 3-((allyloxy)methyl)-4-morpholinobenzenamine as a light orange oil (250 mg, 50% yield). 1H NMR (300 MHz, CDCl3) δ 6.95 (d, J=8.3 Hz, 1H), 6.82 (d, J=2.7 Hz, 1H), 6.61 (dd, J=8.2, 2.7 Hz, 1H), 6.10-5.90 (m, 1H), 5.34-5.28 (m, 1H), 5.23 (dd, J=10.5, 1.9 Hz, 1H), 4.57 (s, 2H), 4.07-4.05 (m, 2H), 3.80 (t, J=4.8 Hz, 4H), 3.55 (br s, 2H), 2.83 (t, J=4.6 Hz, 4H). LC-ESI-MS (method B) rt 5.91 min.; m/z 249.3 [M+H]+.

reactant | NaH | [H-].[Na+]
reactant | 5-amino-2-morpholinobenzyl alcohol | 2 mmol, 400 mg | NC=1C=CC(=C(CO)C1)N1CCOCC1 | C11H16N2O2
reactant | allyl chloride | 2 mmol, 150 mg | C(C=C)Cl | C3H5Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL, 80 mg | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 37 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((allyloxy)methyl)-4-morpholinobenzenamine | 250 mg, 50% yield | C(C=C)OCC=1C=C(C=CC1N1CCOCC1)N | C14H20N2O2
